US03971819
A mixture of 3-amino-4-phenoxy-5-sulphamyl-benzoic acid (3.08 g), ethyl iodide (20 ml), and ethanol (20 ml) was refluxed for 6 days. After cooling, the reaction mixture was evaported to dryness, and the residue was washed with a little ethanol followed by diethyl ether. The ethyl 3-ethylamino-4-phenoxy-5-sulphamyl-benzoate obtained was dissolved in 1N sodium hydroxide (35 ml) and heated on a steam bath for 30 minutes. After cooling, the reaction mixture was adjusted to pH 2.5 by addition of 4N hydrochloric acid, and the precipitated 3-ethylamino-4-phenoxy-5-sulphamyl-benzoic acid was isolated by filtration. After recrystallization from ethanol and drying in vacuo at 115°C, the compound was obtained with a melting point of 236°-237°C.

reactant | 3-amino-4-phenoxy-5-sulphamyl-benzoic acid | 3.08 g | NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H12N2O5S
reactant | ethyl iodide | 20 ml | C(C)I | C2H5I
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 3-ethylamino-4-phenoxy-5-sulphamyl-benzoate | C(C)NC=1C=C(C(=O)OCC)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H20N2O5S
